US05407451
Synthesis of 1,2-dihydroxypropane dodecyl sulfide
Approximately 97 g of 50% aqueous sodium hydroxide solution was added dropwise over a period of 7 hours to a solution of n-dodecyl mercaptan (1000 g) and 1-chloropropane-2,3-diol (547 g) in isopropanol solvent (2000 cc) at ambient temperature. The reaction temperature rose from 21° to 56° C. during the addition. The reaction was refluxed for 5 hours at 80° C. and then filtered hot through paper to remove the precipitated salt. The isopropanol solvent was removed by distillation. The product residue was dissolved in about 4000 cc of toluene and washed with water several times. The toluene solution was dried over magnesium sulfate and filtered through diatomaceous earth. Toluene was removed by high speed rotary evaporation under reduced pressure to yield a white solid product.

reactant | sodium hydroxide | 97 g | [OH-].[Na+]
reactant | n-dodecyl mercaptan | 1000 g | C(CCCCCCCCCCC)S | C12H26S
reactant | 1-chloropropane-2,3-diol | 547 g | ClCC(CO)O | C3H7ClO2
solvent | isopropanol | 2000 cc | C(C)(C)O | C3H8O
product | 1,2-dihydroxypropane dodecyl sulfide | C(CCCCCCCCCCC)SCCCCCCCCCCCC.OCC(C)O | InChI=1S/C24H50S.C3H8O2/c1-3-5-7-9-11-13-15-17-19-21-23-25-24-22-20-18-16-14-12-10-8-6-4-2;1-3(5)2-4/h3-24H2,1-2H3;3-5H,2H2,1H3
